US04427441
Preparation of N-[2-Nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl]phthalimide
The N-potassium salt of phthalimide (4.63 grams; 0.025 mole) dissolved in dimethylformamide (50 ml) was charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. 2-Nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride (9.5 grams; 0.025 mole) was added and the reaction mixture was stirred at room temperature overnight. After this time the mixture was poured into water and was thereafter extracted with toluene. The toluene extract was evaporated to dryness leaving a dark reddish solid. This solid was recrystallized from toluene to yield the desired product N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl]phthalimide as a white powder melting at 160° C.

reactant | phthalimide | 0.025 mole, 4.63 grams | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 2-Nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl chloride | 0.025 mole, 9.5 grams | [N+](=O)([O-])C1=C(C(=O)Cl)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C14H6Cl2F3NO4
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzoyl]phthalimide | [N+](=O)([O-])C1=C(C(=O)N2C(C=3C(C2=O)=CC=CC3)=O)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C22H10ClF3N2O6
